US06342568B1
(1) Cyclohexylfulvene
8.2 ml (100 mmol) of cyclopentadiene and 4.2 ml (40 mmol) of cyclohexanone were added to 40 ml of dehydrated methanol, and 5.0 ml (60 mmol) of pyrrolidine were then added dropwise at 0° C. Then, reaction was carried out at room temperature for 3 hours. Next, 3.8 ml of acetic acid were slowly added at 0° C., and 20 ml of water were further added, followed by extraction with diethyl ether. The resultant organic phase, after washed with water, was dried over magnesium sulfate, and the used solvent was then distilled off to obtain 5.95 g of a yellow liquid.

reactant | cyclopentadiene | 100 mmol, 8.2 ml | C1=CC=CC1 | C5H6
reactant | cyclohexanone | 40 mmol, 4.2 ml | C1(CCCCC1)=O | C6H10O
reactant | methanol | 40 ml | CO | CH4O
reactant | pyrrolidine | 60 mmol, 5.0 ml | N1CCCC1 | C4H9N
solvent | water | 20 ml | O | H2O
solvent | acetic acid | 3.8 ml | C(C)(=O)O | C2H4O2
product | Cyclohexylfulvene | 5.95 g | C1(CCCCC1)C1=CC=CC1=C | C12H16
